US07919504B2
tert-Butyl (S)-1-(5-(3-methyl-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-5-yl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate (0.36 g, 0.6 mmol) in 20 mL DCM was treated with TFA (20 mL, 260 mmol) for 30 minutes. After removing the solvent, the remaining residue was dissolved in 100 mL EtOAc. The resulting solution was washed with a mixture of aqueous saturated sodium bicarbonate and 5% 5N NaOH, and then twice with saturated sodium bicarbonate. After removing the solvent, a tan solid was obtained as the pure product 6-(5-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propylamino)-1,3,4-thiadiazol-2-yl)-1-methyl-1H-benzo[d]imidazol-2(3H)-one (0.2 g, 79% yield). LCMS (API-ES) m/z (%): 449.1 (100%, M++H); 1H NMR (400 MHz, CDCl3) δ ppm 2.72 (b, 3H), 2.97 (dd, J=13.2, 7.7 Hz, 1H) 3.27 (dd, J=13.2, 7.7 Hz, 1H) 3.36-3.46 (m, 5H) 3.56 (m, 1H) 7.03 (d, J=8.22 Hz, 1H) 7.32-7.37 (m, 3H) 7.49 (s, 1H) 7.57 (d, J=7.82 Hz, 2H).

reactant | tert-Butyl (S)-1-(5-(3-methyl-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-5-yl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 0.6 mmol, 0.36 g | CN1C(NC2=C1C=C(C=C2)C2=NN=C(S2)N(C[C@H](CC2=CC=C(C=C2)C(F)(F)F)NC(OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O | C30H35F3N6O5S
reactant | TFA | 260 mmol, 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-(5-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propylamino)-1,3,4-thiadiazol-2-yl)-1-methyl-1H-benzo[d]imidazol-2(3H)-one | 0.2 g, 79% yield | N[C@H](CNC1=NN=C(S1)C=1C=CC2=C(N(C(N2)=O)C)C1)CC1=CC=C(C=C1)C(F)(F)F | C20H19F3N6OS
